US07683064B2
5-Bromo-1-methyl-3-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-1H-pyridin-2-one (2.3 g, 5.9 mmol) was dissolved in 30 mL tetrahydrofuran. Borane tetrahydrofuran complex (2.5 g, 29 mmol) was added. After stirring for 18 hours, this was concentrated in vacuo. Ethanol was added. This was refluxed for one hour. This was concentrated in vacuo and purified by flash chromatography to yield 5-Bromo-1-methyl-3-(5-morpholin-4-ylmethyl-pyridin-2-ylamino)-1H-pyridin-2-one (500 mg, 1.32 mmol). MS (ESI) 381.0 (M+H)+.

reactant | 5-Bromo-1-methyl-3-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-1H-pyridin-2-one | 5.9 mmol, 2.3 g | BrC=1C=C(C(N(C1)C)=O)NC1=NC=C(C=C1)C(=O)N1CCOCC1 | C16H17BrN4O3
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 5-Bromo-1-methyl-3-(5-morpholin-4-ylmethyl-pyridin-2-ylamino)-1H-pyridin-2-one | 1.32 mmol, 500 mg | BrC=1C=C(C(N(C1)C)=O)NC1=NC=C(C=C1)CN1CCOCC1 | C16H19BrN4O2
